US08729102B2
C) 4-{[(2S)-2-(acetylamino)propyl]oxy}-N-(2,4-dihydroxyphenyl)benzamide
Using 4-{[(2S)-2-(acetylamino)propyl]oxy}benzoic acid and 4-aminobenzene-1,3-diol hydrochloride, and in the same manner as in Example 2, step C, the title compound was obtained.

reactant | 4-{[(2S)-2-(acetylamino)propyl]oxy}benzoic acid | C(C)(=O)N[C@H](COC1=CC=C(C(=O)O)C=C1)C | C12H15NO4
reactant | 4-aminobenzene-1,3-diol hydrochloride | Cl.NC1=C(C=C(C=C1)O)O
product | 4-{[(2S)-2-(acetylamino)propyl]oxy}-N-(2,4-dihydroxyphenyl)benzamide | C(C)(=O)N[C@H](COC1=CC=C(C(=O)NC2=C(C=C(C=C2)O)O)C=C1)C | C18H20N2O5
